US07196081B2
The mixture of (4S,5R)-3,4-dimethyl-1-[(2R,9E)-11-(17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl)-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)-9-undecenoyl]-5-phenylimidazolidin-2-one and (4S,5R)-3,4-dimethyl-1-[(2R,9Z)-11-(17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl)-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)-9-undecenoyl]-5-phenylimidazolidin-2-one (579 mg, 653 μmol) was dissolved in ethyl acetate (14 ml), followed by addition of 10% palladium carbon (58 mg) at room temperature. After purging with hydrogen, the reaction mixture was stirred for 19 hours at room temperature. After the reaction mixture was filtered through cellite, the solvent was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Kanto Kagaku, silica gel 60 (spherical, neutral), 40–100 μm, eluent: ethyl acetate/n-hexane=1/1) to give (4S,5R)-3,4-dimethyl-1-[(2R)-11-(17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl)-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)undecanoyl]-5-phenylimidazolidin-2-one (579 mg, Yield 100%).

reactant | (4S,5R)-3,4-dimethyl-1-[(2R,9E)-11-(17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl)-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)-9-undecenoyl]-5-phenylimidazolidin-2-one | CN1C(N([C@@H]([C@@H]1C)C1=CC=CC=C1)C([C@H](CCCCCC\C=C\C[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)OC)O)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)=O)=O | C47H59F9N2O4
reactant | (4S,5R)-3,4-dimethyl-1-[(2R,9Z)-11-(17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl)-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)-9-undecenoyl]-5-phenylimidazolidin-2-one | 653 μmol, 579 mg | CN1C(N([C@@H]([C@@H]1C)C1=CC=CC=C1)C([C@H](CCCCCC\C=C/C[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)OC)O)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)=O)=O | C47H59F9N2O4
solvent | ethyl acetate | 14 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 58 mg | [C].[Pd]
product | (4S,5R)-3,4-dimethyl-1-[(2R)-11-(17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl)-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)undecanoyl]-5-phenylimidazolidin-2-one | 579 mg, Yield 100% | CN1C(N([C@@H]([C@@H]1C)C1=CC=CC=C1)C([C@H](CCCCCCCCC[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)OC)O)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)=O)=O | C47H61F9N2O4
